US04043998
3 g, 0.014 mol of N,N'-Diacetyl-1-phenylethylenediamine was added slowly to 10 ml of 90% HNO3 at -40°. After stirring 5 hr at -40°, the solution was poured over ice and neutralized with NaHCO3. The product was extracted into ethyl acetate, and that was dried with MgSO4 and then evaporated to dryness under reduced pressure. The product was recrystallized from acetone/hexane, yielding 2.2 g (61%) of N,N'-Diacetyl-1-(p-nitrophenyl)-ethylenediamine mp 178°-180°. Anal. (C12H15N3O4) C, H, N were within 0.4% of theoretical.

reactant | N,N'-Diacetyl-1-phenylethylenediamine | 0.014 mol, 3 g | C(C)(=O)NC(CNC(C)=O)C1=CC=CC=C1 | C12H16N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | HNO3 | 10 ml | [N+](=O)(O)[O-] | HNO3
product | N,N'-Diacetyl-1-(p-nitrophenyl)-ethylenediamine | 2.2 g, 61% | C(C)(=O)NC(CNC(C)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O4
